### PR TITLE
[Merged by Bors] - feat: port Order.Filter.Cofinite

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Filter/Cofinite.lean [hunk 1]
```diff
@@ -0,0 +1,201 @@
...
+  refine' ⟨fun h x => h (finite_singleton x).compl_mem_cofinite, fun h s (hs : sᶜ.Finite) => _⟩
+  rw [← compl_compl s, ← bunionᵢ_of_singleton (sᶜ), compl_unionᵢ₂, Filter.binterᵢ_mem hs]
+  exact fun x _ => h x
+#align filter.le_cofinite_iff_compl_singleton_mem Filter.le_cofinite_iff_compl_singleton_mem
+
+theorem le_cofinite_iff_eventually_ne : l ≤ cofinite ↔ ∀ x, ∀ᶠ y in l, y ≠ x :=
+  le_cofinite_iff_compl_singleton_mem
+#align filter.le_cofinite_iff_eventually_ne Filter.le_cofinite_iff_eventually_ne
+
+/-- If `α` is a preorder with no maximal element, then `at_top ≤ cofinite`. -/
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Cofinite.lean:100]:
```suggestion
/-- If `α` is a preorder with no maximal element, then `atTop ≤ cofinite`. -/
```

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
